US05534530
a) 2,4,6-Trimethoxybenzamidoxime
To a suspension of 13.8 g of hydroxylamine hydrochloride in 100 ml of ethanol is added, at a temperature in the region of 15° C., a solution of NaOC2H5 prepared by dissolving 4.3 g of sodium in 100 ml of ethanol. 12 g of 2,4,6-trimethoxybenzonitrile are introduced into the medium, followed by heating at reflux for 41 h before evaporating to dryness. The crystals are washed with water and with dichloromethane.

reactant | hydroxylamine hydrochloride | 13.8 g | Cl.NO
reactant | NaOC2H5 | CC[O-].[Na+]
reactant | sodium | 4.3 g | [Na] | Na
reactant | 2,4,6-trimethoxybenzonitrile | 12 g | COC1=C(C#N)C(=CC(=C1)OC)OC | C10H11NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4,6-Trimethoxybenzamidoxime | COC1=C(C(N)=NO)C(=CC(=C1)OC)OC | C10H14N2O4
